US04156780
Preparation of 3-pyridylmethyl N-(4-cyanophenyl)thiocarbamate zinc chloride complex
The zinc chloride metal salt complex of Example I is made by dissolving 3-pyridylmethyl-N-(4-cyanophenyl)thiocarbamate (2.69g., 0.01 mole) in 75 ml. of methyl cellosolve and adding to this stirred solution; a solution of zinc chloride (0.68g., 0.005 mole) in 10 ml. of methyl cellosolve. The resulting solution is stirred at room temperature for 18 hours. The solvent is removed in vacuo and the residue is slurried in 30 ml. of methanol and collected on a filter to give 2.5g. melting at 174°-5° C. with decomposition.

reactant | zinc chloride | [Cl-].[Zn+2].[Cl-]
reactant | 3-pyridylmethyl-N-(4-cyanophenyl)thiocarbamate | 0.01 mole, 2.69g | N1=CC(=CC=C1)COC(NC1=CC=C(C=C1)C#N)=S | C14H11N3OS
reactant | zinc chloride | 0.005 mole, 0.68g | [Cl-].[Zn+2].[Cl-]
solvent | methyl cellosolve | COCCO | C3H8O2
product | 3-pyridylmethyl N-(4-cyanophenyl)thiocarbamate zinc chloride | [Cl-].[Zn+2].C(#N)C1=CC=C(C=C1)NC(OCC=1C=NC=CC1)=S.[Cl-] | InChI=1S/C14H11N3OS.2ClH.Zn/c15-8-11-3-5-13(6-4-11)17-14(19)18-10-12-2-1-7-16-9-12;;;/h1-7,9H,10H2,(H,17,19);2*1H;/q;;;+2/p-2
